US09029536B2
A) 2-(4-Bromo-2-fluorophenoxy)-3-methyl-3H-imidazo[4,5-b]pyridine
A suspension of 3-methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine (700 mg), 4-bromo-2-fluorophenol (0.399 mL) and NaH (60% in oil, 159 mg) was heated at 180° C. for 30 min under microwave irradiation. The mixture was quenched with water at room temperature and extracted with AcOEt. The organic layer was separated, washed with water and brine, dried over MgSO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (691 mg).

reactant | 3-methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine | 700 mg | CN1C(=NC=2C1=NC=CC2)S(=O)(=O)C | C8H9N3O2S
reactant | 4-bromo-2-fluorophenol | 0.399 mL | BrC1=CC(=C(C=C1)O)F | C6H4BrFO
reactant | NaH | 159 mg | [H-].[Na+]
product | 2-(4-Bromo-2-fluorophenoxy)-3-methyl-3H-imidazo[4,5-b]pyridine | 691 mg | BrC1=CC(=C(OC2=NC=3C(=NC=CC3)N2C)C=C1)F | C13H9BrFN3O
